US07282501B2
Step B: 3-(4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-{[(2,5-dichloro-thiophene-3-carbonyl)-amino]-methyl}-phenyl)-propionic acid
A solution of the 3-(4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-{[(2,5-dichloro-thiophene-3-carbonyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester (367 mg, 0.531 mmol) in CH2Cl2 (20 mL) was treated with anisole (2.0 mL) then TFA (6.0 mL). The mixture was stirred at room temperature for 2 h and concentrated. The residue was co-evaporated with CCl4 three times, dried under vacuum, triturated with ether, and filtered to obtain the title compound as a white solid (301 mg, 73%). 1H NMR (400 MHz, DMSO-d6): δ 2.25 (s, 3H), 2.38 (t, 2H, J=8.3 Hz), 2.71 (t, 2H, J=7.3 Hz), 2.82 (t, 2H, J=6.3 Hz), 4.07 (t, 2H, J=6.6 Hz), 4.28 (d, 2H, J=4.9 Hz), 6.68 (d, 1H, J=9.3 Hz), 6.77 (s, 1H), 7.00 (d, 1H, J=8.3 Hz), 7.24 (s, 1H), 7.29 (t, 1H, J=5.9 Hz), 7.39 (t, 2H, J=7.8 Hz), 7.63 (t, 2H, J=7.8 Hz), 7.71 (d, 2H, J=8.3 Hz), 7.88 (d, 2H, J=8.3 Hz), 8.69 (t, 2H, J=5.9 Hz). MS (ES) m/e 635.1 [M+1].

reactant | 3-(4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-{[(2,5-dichloro-thiophene-3-carbonyl)-amino]-methyl}-phenyl)-propionic acid tert-butyl ester | 0.531 mmol, 367 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CNC(=O)C1=C(SC(=C1)Cl)Cl)=O | C37H36Cl2N2O5S
reactant | anisole | 2.0 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 6.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-{[(2,5-dichloro-thiophene-3-carbonyl)-amino]-methyl}-phenyl)-propionic acid | 301 mg, 73% | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC(=C(C=C1)CCC(=O)O)CNC(=O)C1=C(SC(=C1)Cl)Cl)C)C1=CC=CC=C1 | C33H28Cl2N2O5S
